US08357711B2
Ethyl 4-fluoro-3-vinylbenzoate
A mixture of compound ethyl 3-bromo-4-fluorobenzoate (Preparation 53, 81 g, 328.8 mmol, 1 eq) and bis(triphenylphosphine)palladium (II) chloride (7 g, 9.9 mmol, 0.03 eq) in dioxane (600 mL) was charged with nitrogen. Tin vinyltributyl (115 g, 361.6 mmol, 1.10 eq) was added and the mixture was heated to reflux overnight. The mixture was filtrated and the filtrate was concentrated in vacuum. The residue was dissolved in ether (2 L) and water (1 L). Then potassium fluoride (10 g, 1.7 mol, 5.17 eq) was added to the mixture and much of solid precipitated. The mixture was filtrated and the filtrate was separated. The aqueous phase was extracted with ether (200 mL×2). The combined organic phases were washed with brine, dried over sodium sulfate and concentrated in vacuo to give a residue. The residue was purified by chromatography (petroleum ether) to title compound as a colorless oil (55.8 g, 286 mmol, 87%).

reactant | ethyl 3-bromo-4-fluorobenzoate | 328.8 mmol, 81 g, 1 eq | BrC=1C=C(C(=O)OCC)C=CC1F | C9H8BrFO2
reactant | Tin vinyltributyl | 361.6 mmol, 115 g, 1.10 eq | CCCC[Sn](CCCC)(CCCC)C=C
reactant | potassium fluoride | 1.7 mol, 10 g, 5.17 eq | [F-].[K+]
solvent | dioxane | 600 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 9.9 mmol, 7 g, 0.03 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Ethyl 4-fluoro-3-vinylbenzoate | 286 mmol, 55.8 g, 87% | FC1=C(C=C(C(=O)OCC)C=C1)C=C | C11H11FO2
